US06489344B1
Synthesis of 4-(2-{[2-(2-pyridylamino)ethyl]amino}pyrimidin-4-yl)benzamide
2-(2-Aminoethylamino)pyridine (prepared from 2-chloropyridine and ethylenediamine in accordance with the method described in T. Mega et al., 1988, Bull. Chem. Soc. Japan 61:4315, which is incorporated herein by reference) (6 mmol) was treated with benzotriazole carboxamidinium 4-methylbenzenesulfonatesulfonate (2.0 g, 6 mmol) and DIEA (1.05 ml, 6 mmol) in anhydrous acetonitrile (10 ml) for 65 hours. Ether (ca. 10 ml) was then added to this mixture. After 8 hours the white solid amino[2-(2-pyridylamino)ethyl]carboxamidinium 4-methylbenzenesulfonate was filtered off and dried in vacuo. The resulting guanidine (200 mg) was reacted with 100 mg of resin (21 hours, 90° C.) according to the method described in Example 10 (Resin method C), to give the title compound.

reactant | 2-(2-Aminoethylamino)pyridine | NCCNC1=NC=CC=C1 | C7H11N3
reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | benzotriazole carboxamidinium | 6 mmol, 2.0 g | N1N=NC2=C1C=CC=C2C(=[NH2+])N
reactant | DIEA | 6 mmol, 1.05 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Ether | ca. 10 ml | CCOCC | C4H10O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(2-{[2-(2-pyridylamino)ethyl]amino}pyrimidin-4-yl)benzamide | N1=C(C=CC=C1)NCCNC1=NC=CC(=N1)C1=CC=C(C(=O)N)C=C1 | C18H18N6O
